US04762839
1-Methylcarbamoylisatin (10.2 g) and 1,8-diazabicyclo[5.4.0]-7-undecene (0.3 g) are dissolved in tetrahydrofuran (100 ml), and thereto is added urea (4.5 g), and the mixture is refluxed for 10 hours. After cooling, the precipitates are taken by filtration, washed with water and methanol and recrystallized from a mixture of dimethylsulfoxide and ethanol to give 3-methyl-4-hydroxy-4-ureidocarbonyl-2-oxo-1,2,3,4-tetrahydroquinazoline, M.p.>280° C.,

reactant | 1-Methylcarbamoylisatin | 10.2 g | CNC(=O)N1C(=O)C(=O)C2=CC=CC=C12 | C10H8N2O3
reactant | 1,8-diazabicyclo[5.4.0]-7-undecene | 0.3 g | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | urea | 4.5 g | NC(=O)N | CH4N2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 3-methyl-4-hydroxy-4-ureidocarbonyl-2-oxo-1,2,3,4-tetrahydroquinazoline | CN1C(NC2=CC=CC=C2C1(C(=O)NC(=O)N)O)=O | C11H12N4O4
